US07514470B2
N2-[4-Cyano-3-(trifluoromethyl)phenyl]-N1,N2-dipropylglycinamide
Synthesized as described in example 3 using N-[4-cyano-3-(trifluoromethyl)phenyl]-N-propylglycine and propylamine: 1H NMR (400 MHz, CDCl3) δ 7.61 (d, J=8.6 Hz, 1H), 6.92 (d, J=2.5 Hz, 1H), 6.76 (dd, J=8.8, 2.5 Hz, 1H), 5.94 (bs, 1H), 3.98 (s, 2H), 3.41 (t, J=7.9 Hz, 2H), 3.22 (q, J=6.8 Hz, 2H), 1.68 (m, 2H), 1.45 (m, 2H), 0.99 (t, J=7.3 Hz, 3H), 0.82 (t, J=7.5 Hz, 3H).

reactant | N-[4-cyano-3-(trifluoromethyl)phenyl]-N-propylglycine | C(#N)C1=C(C=C(C=C1)N(CC(=O)O)CCC)C(F)(F)F | C13H13F3N2O2
reactant | propylamine | C(CC)N | C3H9N
product | N2-[4-Cyano-3-(trifluoromethyl)phenyl]-N1,N2-dipropylglycinamide | C(#N)C1=C(C=C(C=C1)N(CC(=O)NCCC)CCC)C(F)(F)F | C16H20F3N3O
